US07763609B2
To a solution of (S)-2-(tert-butoxycarbonyl)-1,4-dimethyl-6-oxo-hexahydropyrimidine-4-carbohydrazide (CY1; R6=Me, 0.037 g, 0.12 mmol) in DCM (0.3 mL) at 0° C. was added Et3N (0.035 mL, 0.24 mmol, 2 eq) followed by 3-cyanobenzoyl chloride (0.027 g, 0.16 mmol, 1.3 eq). The mixture was stirred at RT for 6 h. The mixture was diluted with DCM (20 mL), washed with H2O (10 mL) and saturated brine (10 mL), and concentrated in vacuo. The residue was then treated with TsCl (0.035 g, 0.18 mmol, 1.5 eq), Et3N (0.046 mL, 0.31 mmol, 2.6 eq), and DMAP (0.002 g, 0.016 mmol, 0.13 eq) in DCM (0.25 mL) at RT for 16 h. The mixture was diluted with DCM (20 mL), washed with H2O (10 mL) and saturated brine (10 mL), and concentrated in vacuo. The residue was treated with 30% TFA/DCM (1 mL) at RT for 1 h. The mixture was concentrated in vacuo and the residue was purified on reverse phase HPLC (B) to give 0.006 g (12%) of 3-(5-((S)-2-imino-1,4-dimethyl-6-oxo-hexahydropyrimidin-4-yl)-1,3,4-oxadiazol-2-yl)benzonitrile as a white solid (CZ1; R6=Me). 1HNMR (CD3OD, 300 MHz): δ 8.49 (m, 2H), 8.12 (d, 1H), 7.92 (t, 1H), 3.75 (m, 2H), 3.36 (s, 3H), 1.82 (s, 3H). MS (ESI): MH+=311.2, HPLC (A) Rt=4.175 min.

reactant | (S)-2-(tert-butoxycarbonyl)-1,4-dimethyl-6-oxo-hexahydropyrimidine-4-carbohydrazide | 0.12 mmol, 0.037 g | C(C)(C)(C)OC(=O)[C@@H]1N(C(CC(N1)(C(=O)NN)C)=O)C | C12H22N4O4
reactant | Et3N | 0.24 mmol, 0.035 mL, 2 eq | CCN(CC)CC | C6H15N
reactant | 3-cyanobenzoyl chloride | 0.16 mmol, 0.027 g, 1.3 eq | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
reactant | TsCl | 0.18 mmol, 0.035 g, 1.5 eq | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | Et3N | 0.31 mmol, 0.046 mL, 2.6 eq | CCN(CC)CC | C6H15N
solvent | DCM | 0.3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.016 mmol, 0.002 g, 0.13 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 0.25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-((S)-2-imino-1,4-dimethyl-6-oxo-hexahydropyrimidin-4-yl)-1,3,4-oxadiazol-2-yl)benzonitrile | 0.006 g, 12% | N=C1N(C(C[C@@](N1)(C)C1=NN=C(O1)C=1C=C(C#N)C=CC1)=O)C | C15H14N6O2
